US07435837B2
Treatment of (±)-[4-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (1.31 g, 3.32 mmol) with sodium azide (0.863 g, 13.28 mmol) generally according to the procedure described for Intermediate 98 afforded (±)-2-(azidomethyl)-4-(2-methylphenyl)-2,3-dihydro-1-benzofuran. Treatment of the azide with palladium on carbon (0.082 g, 10 wt. %) generally according to the procedure described for Example 1 provided 0.689 g (85%) of (±)-1-[4-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp 231-234° C.; Anal. calcd. for C16H17NOHCl.0.2H2O: C, 68.79; H, 6.64; N, 5.01. Found: C, 68.49; H, 6.50; N, 4.87.

reactant | (±)-[4-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 3.32 mmol, 1.31 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C(=CC=C2)C2=C(C=CC=C2)C | C23H22O4S
reactant | sodium azide | 13.28 mmol, 0.863 g | [N-]=[N+]=[N-].[Na+]
reactant | (±)-2-(azidomethyl)-4-(2-methylphenyl)-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C(=CC=C2)C2=C(C=CC=C2)C | C16H15N3O
reactant | azide | [N-]=[N+]=[N-]
catalyst | palladium on carbon | 0.082 g | [Pd] | Pd
product | (±)-1-[4-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 0.689 g, 85% | CC1=C(C=CC=C1)C1=CC=CC2=C1CC(O2)CN | C16H17NO
